US08703721B2
To solution of 125.3 mg of (S)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidine dihydrochloride in 5 ml of DMF were added 81.6 mg of (3-trifluoromethyl)phenylacetic acid, 84.3 mg of 1-[3-(dimethylaminopropyl)]-3-ethylcarbodiimide hydrochloride, 67.3 mg of 1-hydroxybenzotriazole, and 153 μl of triethylamine, and the reaction mixture was stirred at room temperature for 16 hours. To the reaction mixture were added a saturated aqueous sodium bicarbonate solution and ethyl acetate, the mixture was stirred and the liquids were separated. The organic layer was washed with water and then dried, the solvent was evaporated, and the residue was purified by thin layer silica gel chromatography (chloroform:methanol=19:1) to obtain 145.7 mg of (S)-3-[(R)-(naphthalen-1-yl)ethylamino]-1 -3-trifluoromethyl)phenylacetylpyrrolidine (Example 5.017 in the following Table C).

reactant | (S)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidine dihydrochloride | 125.3 mg | Cl.Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)N[C@@H]1CNCC1
reactant | 1-hydroxybenzotriazole | 67.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 153 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | phenylacetylpyrrolidine | C1(=CC=CC=C1)CC(=O)N1CCCC1 | C12H15NO
